US08623520B2
Under an argon atmosphere, 7.79 g of triphenylene-2-boronic acid piconal ester, 5.14 g of 2-bromoanthracene, 0.462 g of tetrakis(triphenylphosphine)palladium (0), 30 mL of 1,2-dimethoxyethane and 15 mL of a 2M sodium carbonate aqueous solution were placed in a flask, and refluxed with stirring for 8 hours. After cooling to room temperature, deposited crystals were collected by filtration. The resulting solid was subjected to repeated recrystallization with toluene-hexane and washing to obtain 6.07 g (yield: 75%) of 2-(2-anthryl)triphenylene.

reactant | triphenylene-2-boronic acid | 7.79 g | C1=C(C=CC=2C3=CC=CC=C3C3=CC=CC=C3C12)B(O)O | C18H13BO2
reactant | 2-bromoanthracene | 5.14 g | BrC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C14H9Br
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.462 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
product | 2-(2-anthryl)triphenylene | 6.07 g, yield: 75% | C1=C(C=CC2=CC3=CC=CC=C3C=C12)C1=CC=2C3=CC=CC=C3C3=CC=CC=C3C2C=C1 | C32H20
